US07807672B2
Preparation of 2-fluoromethyl-acrylic acid ethyl ester
To a solution of (diethylamino)sulfur trifluoride (DAST) (363 μl, 2.76 mmol) in dichloromethane (1 ml) was slowly added at −78 C. a solution of 2-hydroxylmethyl acrylic acid ethyl ester (300 mg, 2.31 mmol) in dichloromethane (3 ml). The reaction mixture was allowed to warm to room temperature, re-chilled to −78 C. and additional DAST (100 μl, 0.76 mmol) was added to ensure complete reaction. The reaction mixture was let to warm to room temperature and quenched with saturated sodium carbonate. Organic layer was isolated, washed with water, brine and dried (MgSO4). The dichloromethane solution was directly passed through a short silica gel pad, eluted with dichloromethane and the product fractions were collected. The combined fractions (ca. 12 ml) will be directly used in the next step synthesis without further concentration.

reactant | (diethylamino)sulfur trifluoride | 2.76 mmol, 363 μl | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 2-hydroxylmethyl acrylic acid ethyl ester | 2.31 mmol, 300 mg | C(C)OC(C(=C)CO)=O | C6H10O3
reactant | DAST | 0.76 mmol, 100 μl | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-fluoromethyl-acrylic acid ethyl ester | C(C)OC(C(=C)CF)=O | C6H9FO2
